US20010023238A1
(R,R)-N-[4-(Diethylamino)salicylidene]-N′-(4-hydroxysalicylidene)-1,2-cyclohexanediamine
To a suspension of 2.5 g (8.64 mmol) of (R,R)-N-mono[4-(diethylamino)salicylidene]-1,2-cyclohexanediamine in 200 ml of ethanol is added dropwise at room temperature over the course of 45 minutes a solution of 1.19 g (8.64 mmol) of 2,4-dihydroxybenzaldehyde. The suspension is heated at 60° C. for 4 h. After cooling to room temperature the resultant brownish orange solution is concentrated to dryness. The crude product (3.5 g) is resolved by column chromatography (ethyl acetate/methanol 9:1). Yield: 570 mg (16%), yellowish orange solid.

reactant | (R,R)-N-mono[4-(diethylamino)salicylidene]-1,2-cyclohexanediamine | 8.64 mmol, 2.5 g | C(C)N(C=1C=C(C(C=N[C@H]2[C@@H](CCCC2)N)=CC1)O)CC | C17H27N3O
reactant | 2,4-dihydroxybenzaldehyde | 8.64 mmol, 1.19 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (R,R)-N-[4-(Diethylamino)salicylidene]-N′-(4-hydroxysalicylidene)-1,2-cyclohexanediamine | C(C)N(C=1C=C(C(C=N[C@H]2[C@@H](CCCC2)N=CC=2C(O)=CC(=CC2)O)=CC1)O)CC | C24H31N3O3
